US07125901B2
A mixture of 3-chloro-2-oxopropyl acetate (5 g) and thiourea (2.5 g) in ethanol (25 ml) was refluxed for 4 hours. The reaction mixture was cooled to ambient temperature and the resulting crystalline precipitate was collected by filtration and washed with ethanol (20 ml) to give (2-amino-1,3-thiazol-4-yl)methyl acetate hydrochloride (3.5 g) as white crystals.

reactant | 3-chloro-2-oxopropyl acetate | 5 g | C(C)(=O)OCC(CCl)=O | C5H7ClO3
reactant | thiourea | 2.5 g | NC(=S)N | CH4N2S
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (2-amino-1,3-thiazol-4-yl)methyl acetate hydrochloride | 3.5 g | Cl.C(C)(=O)OCC=1N=C(SC1)N | InChI=1S/C6H8N2O2S.ClH/c1-4(9)10-2-5-3-11-6(7)8-5;/h3H,2H2,1H3,(H2,7,8);1H
